US05476876
1-(3,5-Di-tert-butyl-4-hydroxyphenyl)-3-hydroxy-3-ethyl-pentan-1-one (prepared by method analogous to that of Example 1) (1.6 g) is dissolved in dry 1N hydrogen chloride solution in ethyl ether (50 mL) and the mixture is stirred at ambient temperature for 10 hours. The solution is washed three times with water, dried over anhydrous sodium sulfate and the solvent is removed under reduced pressure. The crude product is crystallized twice from petroleum ether to give 1-(3,5-di-tert-butyl-4-hydroxyphenyl)-3-chloro-3-ethyl-pentan-1-one as white solid, mp 72° C.

reactant | 1-(3,5-Di-tert-butyl-4-hydroxyphenyl)-3-hydroxy-3-ethyl-pentan-1-one | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C(CC(CC)(CC)O)=O | C21H34O3
reactant | hydrogen chloride | 1N | Cl | ClH
solvent | ethyl ether | 50 mL | C(C)OCC | C4H10O
product | 1-(3,5-di-tert-butyl-4-hydroxyphenyl)-3-chloro-3-ethyl-pentan-1-one | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C(CC(CC)(CC)Cl)=O | C21H33ClO2
